US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid.
A solution of 2-{3-[3-(5-benzyloxy-2-ethyl-4-thiazol-2-yl-phenoxy)propoxy]-2-propylphenoxy}benzoic acid methyl ester (282 mg, 0.442 mmol) in ethanethiol (3 mL) was treated with boron trifluoride etherate (0.56 mL, 4.4 mmol) at room temperature for 3 h. The reaction mixture was diluted with water, concentrated in vacuo, and extracted with diethyl ether. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, ethyl acetate/hexane) provided 107 mg (44%) of the title compound. 1H NMR (CDCl3) δ 7.88 (dd, J=8, 2 Hz, 1H), 7.80 (d, J=4 Hz, 1H), 7.35 (dt, J=8, 2 Hz, 1H), 7.28 (d, J=4 Hz, 1H), 7.24 (s, 1H), 7.09 (dt, J=9, 2 Hz, 1H), 7.05 (t, J=9 Hz, 1H), 6.79 (d, J=9 Hz, 1H), 6.66 (d, J=9 Hz, 1H), 6.61 (s, 1H), 6.42 (d, J=9 Hz, 1H), 4.24 (t, J=6 Hz, 2H), 4.18 (t, J=6 Hz, 2H), 3.81 (s, 3H), 2.63 (t, J=7 Hz, 2H), 2.58 (q, J=7 Hz, 2H), 2.34 (quintet, J=6 Hz, 2H), 1.52 (hextet, J=8 Hz, 2H), 1.17 (t, J=7 Hz, 3H), 0.88 (t, J=7 Hz, 3H); MS ES+ m/e 548 (p+1).

reactant | 2-{3-[3-(5-benzyloxy-2-ethyl-4-thiazol-2-yl-phenoxy)propoxy]-2-propylphenoxy}benzoic acid methyl ester | 0.442 mmol, 282 mg | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C=1SC=CN1)CC)CCC)=O | C38H39NO6S
reactant | boron trifluoride etherate | 4.4 mmol, 0.56 mL | B(F)(F)F.CCOCC
solvent | ethanethiol | 3 mL | C(C)S | C2H6S
solvent | water | O | H2O
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid | 107 mg, 44% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1SC=CN1)O | C30H31NO6S
